US03993683
[1-(2'-Chloro-4-biphenylyl)-ethylthio]-acetic acid amide
63.0 gm (0.205 mol) of [1-(2'-chloro-4-biphenylyl)-ethylthio]-acetic acid were dissolved in 630 ml of dry tetrahydrofuran, and 33.3 gm (0.246 mol) of carbonyldiimidazole were added. After stirring the mixture for 1/2 hour, dry ammonia was introduced into 300 ml of the obtained solution of the imidazolide (corresponding to 0.0683 mol), while cooling slightly, until the mixture was saturated. Subsequently, the mixture was stirred for 2.5 hours more and then evaporated in vacuo. The residue was distributed between water and ethyl acetate, and washed several times with dilute hydrochloric acid. The organic layer was dried and evaporated. Yield: 100% of theory; oil, Rf -value: 0.2 on carrier 1 with cyclohexane/ethyl acetate = 1:1.

reactant | [1-(2'-chloro-4-biphenylyl)-ethylthio]-acetic acid | 0.205 mol, 63.0 gm | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)SCC(=O)O | C16H15ClO2S
reactant | carbonyldiimidazole | 0.246 mol, 33.3 gm | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | N | H3N
reactant | imidazolide | 0.0683 mol | [N-]1C=NC=C1
solvent | tetrahydrofuran | 630 ml | O1CCCC1 | C4H8O
product | [1-(2'-Chloro-4-biphenylyl)-ethylthio]-acetic acid amide | Yield: 100% | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)SCC(=O)N | C16H16ClNOS
